US05821261
Step G: (4S)-4-[(Isothioureido)methyl]-L-Proline Dihydrochloride
(4S)-1-(tert-Butyloxycarbonyl)-4-[(isothioureido)methyl]-L-proline tert-butyl ester (25 mg, 0.070 mmol) was treated with 4N HCl in dioxane (1 mL) for 18 hours at room temperature. The reaction mixture was evaporated under diminished pressure, coevaporated several times with diethyl ether, several times with methanol, and finally ether. The product was dried under high vacuum to afford the title compound; yield 14 mg (73%). Mass spectrum: m/z 203 (M); 400 MHz 1H NMR (CD3OD): δ1.92 (m, 1H); 3.18 (m, 1H); 4.48 (m, 1H).

reactant | (4S)-1-(tert-Butyloxycarbonyl)-4-[(isothioureido)methyl]-L-proline tert-butyl ester | 0.070 mmol, 25 mg | C(C)(C)(C)OC([C@H]1N(C[C@@H](C1)CNC(S)=N)C(=O)OC(C)(C)C)=O | C16H29N3O4S
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (4S)-4-[(Isothioureido)methyl]-L-Proline Dihydrochloride | Cl.Cl.N(C(S)=N)C[C@H]1C[C@H](NC1)C(=O)O | InChI=1S/C7H13N3O2S.2ClH/c8-7(13)10-3-4-1-5(6(11)12)9-2-4;;/h4-5,9H,1-3H2,(H,11,12)(H3,8,10,13);2*1H/t4-,5-;;/m0../s1
